US03962236
To a stirred solution of 7.2 g of 3-methylindole-1-ethanol, described in Example 1, in 500 ml. of dry ether (ice bath) is slowly added 1.2 ml of phosphorus tribromide in 100 ml of dry ether. A dark red oily complex separates. The eaction reaction is stirred 36-48 hours at room temperature, then decomposed with ice and water. The separated ether-layer is quickly washed with a 10% solution of sodium bicarbonate and with water again, dried over calcium chloride for 2 min., decanted, and dried over magnesium sulfate for 30 min. The filtrate is evaporated yielding 1-(2-bromoethyl)-3-methylindole.

reactant | 3-methylindole-1-ethanol | 7.2 g | CC1=CN(C2=CC=CC=C12)CCO | C11H13NO
reactant | phosphorus tribromide | 1.2 ml | P(Br)(Br)Br | Br3P
reactant | water | O | H2O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-(2-bromoethyl)-3-methylindole | BrCCN1C=C(C2=CC=CC=C12)C | C11H12BrN
